US07494999B2
A mixture of 9-benzyl-3-(4-trifluoromethoxy-phenyl)-3,9-diaza-bicyclo[3.3.1]nonane-2,4-dione (120 mg, 0.3 mmol), 10% Pd/C (20 mg, 0.02 mmol Pd), ethyl acetate (8 mL), and ethanol (2 mL) were stirred vigorously under an atmosphere of H2. After 2 h, more ethanol (2 mL) was added. After an additional 16 h, the reaction was filtered through Celite and concentrated to give 3-(4-trifluoromethoxy-phenyl)-3,9-diaza-bicyclo[3.3.1]nonane-2,4-dione: MS (ESI): 315.4 (M+H).

reactant | 9-benzyl-3-(4-trifluoromethoxy-phenyl)-3,9-diaza-bicyclo[3.3.1]nonane-2,4-dione | 0.3 mmol, 120 mg | C(C1=CC=CC=C1)N1C2C(N(C(C1CCC2)=O)C2=CC=C(C=C2)OC(F)(F)F)=O | C21H19F3N2O3
reactant | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.02 mmol, 20 mg | [Pd] | Pd
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-(4-trifluoromethoxy-phenyl)-3,9-diaza-bicyclo[3.3.1]nonane-2,4-dione | FC(OC1=CC=C(C=C1)N1C(C2CCCC(C1=O)N2)=O)(F)F | C14H13F3N2O3
